### PR TITLE
chore: adaptations for nightly-2024-05-23

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

**Comment by TwoFX** [comment]
Thanks!
bors d+

File: Mathlib/Data/Nat/Bits.lean [hunk 1]
```diff
@@ -286,24 +286,21 @@ lemma testBit_bit_zero (b n) : testBit (bit b n) 0 = b := by
...
-  · simp only [cond_true, bit1, bit0, shiftRight_zero, and_one_is_mod, bne_iff_ne]
-    simp only [← Nat.mul_two]
-    rw [Nat.add_mod]
-    simp
+  · simp [bit0, bit1, ← Nat.mul_two]
 
 #align nat.test_bit_zero Nat.testBit_zero
 
-lemma bodd_eq_and_one_ne_zero : ∀ n, bodd n = (n &&& 1 != 0)
+lemma bodd_eq_one_and_ne_zero : ∀ n, bodd n = (1 &&& n != 0)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Bits.lean:293]: Does this want a deprecated alias? (But also I don't really care about `bodd` :))

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Data/Nat/Bits.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Data/Nat/Bits.lean:293]: Yeah, this `bodd` stuff is hard to care about. :-)
